*$ 
* LT101x_5V
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LT101x_5V
* Date: 03AUG2022
* EVM Order Number: NA
* EVM Users Guide:  NA
* Datasheet: SLOS018I -MAY 1988-REVISED JULY 2016
* Parts is a MicroSim product.
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice Symbol.
* 2. Added .ENDS name as LT101x_5V.
*
* Final 1.0
* Release to Web.
* 
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
* 2. LT101x_5V model is applicable to LT1013* and LT1014* family devices.
***************************************************************************** 
* CONNECTIONS:      NON-INVERTING INPUT
*                   | INVERTING INPUT
*                   | | POSITIVE POWER SUPPLY
*                   | | | NEGATIVE POWER SUPPLY
*                   | | | | OUTPUT
*                   | | | | |
.SUBCKT LT101x_5V   1 2 3 4 5
*****************************************************************************
C1   11 12 5.887E-12
C2    6  7 30.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 204.6E6 -20E6 20E6 20E6 -20E6
GA    6  0 11 12 113.1E-6
GCM   0  6 10 99 225.7E-12
IEE   3 10 DC 12.04E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 8.842E3
RC2   4 12 8.842E3
RE1  13 10 4.518E3
RE2  14 10 4.518E3
REE  10 99 16.62E6
RO1   8  5 25
RO2   7 99 50
RP    3  4 16.23E3
VB    9  0 DC 0
VC    3 53 DC 1.300
VE   54  4 DC .7
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=333.3)
.ENDS LT101x_5V
